US04614533
12 g (0.042 mol) of 5-amino-4-cyano-1-(2-chloro-4-trifluoromethoxy-phenyl)-pyrazole are boiled under reflux with 5 g of Raney nickel in 50 ml of 75% strength aqueous formic acid for 1 hour; the still warm solution is filtered under suction, the residue is rinsed with water, the filtrate is extracted several times with ether, and the combined ether phases are washed with saturated sodium bicarbonate solution, dried over sodium sulphate and evaporated down in vacuo. 8.0 g (62% of theory) of 5-amino-1-(2-chloro-4-trifluoromethoxy-phenyl)-4-formyl-pyrazole are obtained in the form of an oil.

reactant | 5-amino-4-cyano-1-(2-chloro-4-trifluoromethoxy-phenyl)-pyrazole | 0.042 mol, 12 g | NC1=C(C=NN1C1=C(C=C(C=C1)OC(F)(F)F)Cl)C#N | C11H6ClF3N4O
reactant | formic acid | C(=O)O | CH2O2
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 5-amino-1-(2-chloro-4-trifluoromethoxy-phenyl)-4-formyl-pyrazole | 8.0 g, 62% | NC1=C(C=NN1C1=C(C=C(C=C1)OC(F)(F)F)Cl)C=O | C11H7ClF3N3O2
